US07250518B2
5-Chloro-2-(4-fluoro-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-benzyl]-nicotinamide of Formula (6.0.54):
5-Chloro-2-(4-fluoro-phenoxy)-nicotinic acid (1.37 g) was dissolved in anhydrous dichloromethane (15 mL). 4-Methylmorpholine (0.80 mL) was added and the solution cooled in a dry ice/acetone bath. Isobutyl chloroformate (0.85 mL) was added and the solution stirred for 15 minutes. 4-(1-Hydroxy-1-methyl-ethyl)-benzyl amine (0.946 g) was added and the solution warmed to ambient temperature overnight. The solution was then poured into a separatory funnel and water (15 mL) was added. The solution was shaken, and the organics were removed. The remaining aqueous portion was extracted with dichloromethane (6×20 mL). The combined organics were dried over magnesium sulfate, filtered and concentrated to dryness in vacuo to yield the crude product (2.65 g). Purification of the crude material by silica gel chromatography (ethyl acetate:hexanes 1:3) yielded pure title compound (1.61 g).

reactant | 5-Chloro-2-(4-fluoro-phenoxy)-nicotinic acid | 1.37 g | ClC=1C=NC(=C(C(=O)O)C1)OC1=CC=C(C=C1)F | C12H7ClFNO3
reactant | 4-Methylmorpholine | 0.80 mL | CN1CCOCC1 | C5H11NO
reactant | Isobutyl chloroformate | 0.85 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-(1-Hydroxy-1-methyl-ethyl)-benzyl amine | 0.946 g | OC(C)(C)C1=CC=C(CN)C=C1 | C10H15NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | 15 mL | O | H2O
product | 5-Chloro-2-(4-fluoro-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-benzyl]-nicotinamide | 1.61 g | ClC=1C=NC(=C(C(=O)NCC2=CC=C(C=C2)C(C)(C)O)C1)OC1=CC=C(C=C1)F | C22H20ClFN2O3
